* source TERMOMETRU
R_R6         N41698 0  2k TC=0,0 
X_U5B         VREF N42162 VCC -VCC N42162 TL082
R_R29         0 N43290  1k TC=0,0 
R_R18         N43524 VCC  665 TC=0,0 
R_R30         N42646 VCC  665 TC=0,0 
R_R4         N41606 N41698  1k TC=0,0 
R_R28         N43290 VCC  1.3k TC=0,0 
V_V1         VCC 0 15
R_R33         0 N43580  1k TC=0,0 
R_R1         VTH VCC  27.4k TC=0,0 
X_U4B         VOUT1 N42184 VCC -VCC N418664 TL082
R_R12         0 N42184  1k TC=0,0 
D_D5          N436260 N435424 Diode_Red 
X_U9B         N42646 VOUT1 VCC -VCC OUT4 TL082
R_R16         0 N43156  1k TC=0,0 
V_V2         -VCC 0 -15
X_U8B         VOUT1 N43524 VCC -VCC N433684 TL082
X_U13B         VOUT1 N43580 VCC -VCC N435424 TL082
X_U7B         N43090 VOUT1 VCC -VCC OUT3 TL082
R_R2         VREF VCC  14k TC=0,0 
R_R19         0 N43524  1k TC=0,0 
R_R27         0 N42472  1k TC=0,0 
D_D2          N427680 N426864 Diode_Green 
X_U12B         N43290 VOUT1 VCC -VCC OUT5 TL082
X_U10B         VOUT1 N42836 VCC -VCC N426864 TL082
R_R22         0 N42836  1k TC=0,0 
X_U1A         VTH N41606 VCC -VCC N41606 TL082
R_R15         N43156 VCC  1.3k TC=0,0 
R_RNTC         0 VTH  {Rntc} TC=0,0 
R_R24         N43090 VCC  301 TC=0,0 
R_R26         N42472 VCC  261 TC=0,0 
R_R13         OUT1 N419780  634 TC=0,0 
R_R10         0 VTH  47.5k TC=0,0 
R_R25         0 N43090  1k TC=0,0 
R_R7         N42170 VOUT1  2k TC=0,0 
R_R3         0 VREF  1k TC=0,0 
R_R14         OUT2 N427680  681 TC=0,0 
D_D3          N434380 N433684 yellowDiode 
R_R5         N42162 N42170  1k TC=0,0 
R_R23         OUT4 N430380  681 TC=0,0 
D_D1          N419780 N418664 Diode_Blue 
R_R20         OUT3 N434380  665 TC=0,0 
R_R11         N42184 VCC  261 TC=0,0 
R_R21         N42836 VCC  301 TC=0,0 
R_R17         OUT5 N436260  665 TC=0,0 
R_R31         0 N42646  1k TC=0,0 
D_D4          N430380 N429424 Diode_Orange 
X_U3A         N41698 N42170 VCC -VCC VOUT1 TL082
X_U11B         VOUT1 N43156 VCC -VCC N429424 TL082
X_U6B         N42472 VOUT1 VCC -VCC OUT2 TL082
R_R32         N43580 VCC  6.34k TC=0,0 
X_U2B         VCC VOUT1 VCC -VCC OUT1 TL082
.PARAM  rntc=47.5k
